US07786129B2
5,7-dichloro-3-{4-[4-(4-chlorophenyl)-piperazin-1-yl]-butyl}-3-methyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process H by applying processing method 1 starting from 5,7-dichloro-3-(4-chlorobutyl)-3-methyl-1,3-dihydro-2H-indol-2-one and 1-(4-chlorophenyl)-piperazine.

reactant | 5,7-dichloro-3-(4-chlorobutyl)-3-methyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)(C)CCCCCl | C13H14Cl3NO
reactant | 1-(4-chlorophenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 5,7-dichloro-3-{4-[4-(4-chlorophenyl)-piperazin-1-yl]-butyl}-3-methyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)(C)CCCCN1CCN(CC1)C1=CC=C(C=C1)Cl | C23H26Cl3N3O
